US07465795B2
4-amino-N-cyclobutyl-8-(2,4-dimethoxyphenyl)-7-fluoro-cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide (175 mg) and 2,4-dimethoxy-phenyl boronic acid (205 mg) were reacted to afford the title compound (133 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.20 (d, 1H), 8.47 (m, 1H), 7.70 (m, 1H), 7.18 (m, 1H), 6.70 (m, 1H), 6.64 (m, 1H), 4.49 (m, 1H), 3.85 (s, 3H), 3.65 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=397 (M+H).

reactant | 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide | 175 mg | NC1=C(N=NC2=C(C(=CC=C12)F)Br)C(=O)NC1CCC1 | C13H12BrFN4O
reactant | 2,4-dimethoxy-phenyl boronic acid | 205 mg | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | 4-amino-N-cyclobutyl-8-(2,4-dimethoxyphenyl)-7-fluoro-cinnoline-3-carboxamide | 133 mg | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=C(C=C1)OC)OC)C(=O)NC1CCC1 | C21H21FN4O3
